Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
latex
 
Attending: ___.
 
Chief Complaint:
___ year old female with L3-L4 lumbar stenosis and 
spondylolithesis and neurogenic claudication
 
Major Surgical or Invasive Procedure:
Removal of hard, revision lumbar decompression to L3-L4 with 
instrumented fusion

 
History of Present Illness:
___ year old female with h/o previous L4-L6 lumbar decompression 
with instrumented fusion presents with adjacent segment disease 
at L3-L4 with neurogenic claudication.  The patient failed 
conservative measures including medical management with pain 
medications and physical therapy.  The patient elected to 
undergo surgical intervention.
 
Past Medical History:
Pancreatitis ___
HTN
hyperthyroidism, s/p treatment, now euthyroid

 
Social History:
___
Family History:
Her mother had colon cancer at ___ but she declined therapy. 
Her father was killed by Pol Pot at a young age. 
 
Physical Exam:
NAD, A&Ox4
nl resp effort
RRR
Drain output 25. Drain with good suction and serosanguinous
drainage.
Dressing c/d/I.  incision c/d/i

  
Sensory:
UE 
       C5         C6           C7        C8           T1
     (lat arm)  (thumb)     (mid fing) (sm finger)  (med arm)
R     SILT       SILT        SILT        SILT         SILT
L     SILT       SILT        SILT        SILT         SILT

___    
     L2     L3      L4         L5        S1          S2
   (Groin) (Knee) (Med Calf) (Grt Toe) (Sm Toe) (Post Thigh)
R    SILT   SILT    SILT       SILT     SILT       SILT 
L    SILT   SILT    SILT       SILT     SILT       SILT 

Motor:
UE   Dlt(C5) Bic(C6) WE(C6) Tri(C7) WF(C7) FF(C8)FinAbd(T1)
R      5       5       5      5       5      5     5
L      5       5       5      5       5      5     5

___  Flex(L1) Add(L2) Quad(L3)  TA(L4) ___ ___
R      5       5       5         5      5      5         5      
L      5       5       5         5      5      5         5

 
Pertinent Results:
___ 07:05PM BLOOD WBC-6.7 RBC-3.84* Hgb-10.4* Hct-32.4* 
MCV-84 MCH-27.1 MCHC-32.1 RDW-14.5 RDWSD-44.3 Plt ___
___ 07:05PM BLOOD Glucose-150* UreaN-8 Creat-0.8 Na-137 
K-4.2 Cl-101 HCO3-23 AnGap-13
___ 07:05PM BLOOD ___ PTT-25.4 ___
 
Brief Hospital Course:
___ was admitted on ___ and underwent a L4-L6 removal 
of hardware and L3-L4 lumbar decompression with instrumented 
fusion by Dr. ___.  The patient tolerated well and there were 
no complications.  Post-operatively the patient had symptomatic 
acute blood loss anemia which she received 2 units of pRBC.  The 
patient responded well to the transfusion and she was cleared 
for discharge home with services on ___.  She is 
tolerating a regular diet and her pain is controlled on oral 
pain medications.  She will be discharged home today.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Alendronate Sodium 70 mg PO 1X/WEEK (___) 
2. Gabapentin 100 mg PO QHS 
3. Creon 12 3 CAP PO QIDWMHS 
4. MetFORMIN (Glucophage) 500 mg PO BID 
5. Methimazole 10 mg PO BID 
6. Naproxen 500 mg PO Q12H 
7. NIFEdipine (Extended Release) 30 mg PO DAILY 
8. Omeprazole 20 mg PO BID 
9. Calcium Carbonate 500 mg PO BID 
10. Ferrous Sulfate 325 mg PO DAILY 
11. Ascorbic Acid ___ mg PO DAILY 
12. Multivitamins 1 TAB PO DAILY 
13. Simethicone 40-80 mg PO QID:PRN abd bloating 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*60 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*20 Capsule Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H moderate and 
severe pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0 
4.  Alendronate Sodium 70 mg PO 1X/WEEK (___)  
5.  Ascorbic Acid ___ mg PO DAILY  
6.  Calcium Carbonate 500 mg PO BID  
7.  Creon 12 3 CAP PO QIDWMHS  
8.  Ferrous Sulfate 325 mg PO DAILY  
9.  Gabapentin 100 mg PO QHS  
10.  MetFORMIN (Glucophage) 500 mg PO BID  
11.  Methimazole 10 mg PO BID  
12.  Multivitamins 1 TAB PO DAILY  
13.  NIFEdipine (Extended Release) 30 mg PO DAILY  
14.  Omeprazole 20 mg PO BID  
15.  Simethicone 40-80 mg PO QID:PRN abd bloating  
16.rolling walker
Rolling Walker
Dispense: 1
Dx: Lumbar stenosis s/p Revision L3-L4 lumbar decompression with 
instrumented fusion

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Lumbar spinal stenosis L3-L4 with spondylolithesis and 
neurogenic claudication

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Lumbar decompression with fusion:

You have undergone the following operation: Lumbar Decompression 
With Fusion

Immediately after the operation:

•Activity: You should not lift anything greater than 10 lbs for 
2 weeks. You will be more comfortable if you do not sit or stand 
more than ~45 minutes without getting up and walking around.

•Rehabilitation/ Physical Therapy:

___ times a day you should go for a walk for ___ 
minutes as part of your recovery.  You can walk as much as you 
can tolerate.

___ any kind of lifting.

•Diet: Eat a normal healthy diet. You may have some constipation 
after surgery.  You have been given medication to help with this 
issue.

•Wound Care: Remove the dressing in 2 days.  If the incision is 
draining cover it with a new sterile dressing.  If it is dry 
then you can leave the incision open to the air.  Once the 
incision is completely dry (usually ___ days after the 
operation) you may take a shower. Do not soak the incision in a 
bath or pool.  If the incision starts draining at anytime after 
surgery, do not get the incision wet. Cover it with a sterile 
dressing.  Call the office.

•You should resume taking your normal home medications.

•You have also been given Additional Medications to control your 
pain.  Please allow 72 hours for refill of narcotic 
prescriptions, so please plan ahead.  You can either have them 
mailed to your home or pick them up at the clinic located on 
___.  We are not allowed to call in or fax narcotic 
prescriptions (oxycontin, oxycodone, percocet) to your pharmacy. 
 In addition, we are only allowed to write for pain medications 
for 90 days from the date of surgery.

•Follow up:            

___ Call the office and make an appointment for 2 
weeks after the day of your operation if this has not been done 
already.

___ the 2-week visit we will check your incision, take 
baseline X-rays and answer any questions. We may at that time 
start physical therapy.

___ will then see you at 6 weeks from the day of the 
operation and at that time release you to full activity.

Please call the office if you have a fever>101.5 degrees 
Fahrenheit and/or drainage from your wound.

Physical Therapy:
1)Weight bearing as tolerated.2)Gait,balance training.3)No 
lifting >10 lbs.4)No significant bending/twisting5)Home with 
services6)rolling walker
Treatments Frequency:
Dressing may be removed post-operative day 2. Then apply a dry 
sterile dressing . Change as needed. Keep a dressing in place 
until followup. 
 
Followup Instructions:
___